US20010007873A1
A. 1-(3-Benzyloxy-phenyl)-cyclopentanol
To a flame-dried flask containing magnesium (Mg) was added a solution of 1-bromo-3-benzyloxy-benzene (10.53 g, 40 mmol) in 40 ml of anhydrous ethyl ether. Under a N2 atmosphere the resultant mixture was heated to reflux for 8 hours. The reaction mixture was cooled to 0° C., followed by a dropwise addition of cyclopentanone (J.A.C.S., 90, 3404-3415, 1968) (3.54 ml, 40 mmol) in 10 ml of anhydrous ethyl ether. The reaction was stirred at room temperature for 30 minutes, then cooled to 0° C. and hydrolyzed by aqueous ammonium chloride (NH4Cl) (20 ml). The organic extract was dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed on 300 g silica gel using hexanes-ethyl acetate (EtOAc) 3:1 to afford 4 g (37%) of the title compound as a pale yellow oil.

reactant | magnesium | [Mg] | Mg
reactant | 1-bromo-3-benzyloxy-benzene | 40 mmol, 10.53 g | BrC1=CC(=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
reactant | cyclopentanone | 40 mmol, 3.54 ml | C1(CCCC1)=O | C5H8O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(3-Benzyloxy-phenyl)-cyclopentanol | 4 g, 37% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCCC1)O | C18H20O2
